US08222248B2
To a solution of 3,4-diamino-benzoic acid ethyl ester (0.9 g) and 2,6-dichlorobenzaldehyde (1.2 g) in DMSO (20 mL) was added Sc(OTf)3 (0.1 g) and Cu(OTf)2 (0.07 g). The mixture was stirred in an open flask at ambient temperature overnight, before it was poured into aqueous NH4OH. Resulting precipitate was collected by filtration and the wet solid was dissolved in MeOH (20 mL). To it was added 1N NaOH (12 mL) and the mixture was heated to reflux overnight, when it was cooled to ambient temperature, diluted by water, and washed with ether. The aqueous phase was then carefully acidified to pH 3-4 and resulting precipitate was filtered and air dried to give crude 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid as tan solid: 1H NMR (400 MHz, CD3OD) 8.4 (br s, 1H), 8.0 (d, 1H), 7.7 (s, 1H), 7.6 (m, 3H).

reactant | 3,4-diamino-benzoic acid ethyl ester | 0.9 g | C(C)OC(C1=CC(=C(C=C1)N)N)=O | C9H12N2O2
reactant | 2,6-dichlorobenzaldehyde | 1.2 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | NH4OH | [NH4+].[OH-]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | Sc(OTf)3 | 0.1 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Sc+3]
catalyst | Cu(OTf)2 | 0.07 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Cu+2]
product | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C14H8Cl2N2O2
